US04169833
Preparation 2: 4-Acetylthio-2-azetidinone (Preferred Process)
To a cold (0°-5°) oxygen-free 1 N NaOH solution (803 ml.) was added over 20 minutes thioacetic acid (57 ml., 61 g., 0.803 mole). The resulting solution was added in ca 20 minutes to a cold (10°) oxygen-free solution of 4-acetoxyazetidinone (94 g., 0.730 mole) in water (300 ml.). The pH of the resulting solution was immediately adjusted to 7.4 with solid NaHCO3. The cooling bath was removed and the solution was stirred for 2.75 hours. The mixture was then extracted with chloroform, the combined organic extracts washed with water (150 ml.) and dried over sodium sulfate. Concentration on a rotary evaporator left a yellow oil (95.3 g., 90%) which solidified to a yellow solid on cooling and seeding. This solid was found identical (by IR, NMR and TLC) to the product obtained in Preparation 1.

reactant | oxygen | 1 N, 803 ml | O=O | O2
reactant | thioacetic acid | 0.803 mole, 57 ml, 61 g | C(C)(=S)O | C2H4OS
reactant | 4-acetoxyazetidinone | 0.730 mole, 94 g | C(C)(=O)OC1CC(N1)=O | C5H7NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 300 ml | O | H2O
product | 4-Acetylthio-2-azetidinone | C(C)(=O)SC1CC(N1)=O | C5H7NO2S
